US09302991B2
<Step-2>: 2-(cyclobutanecarboxamido)-N-(1-(5-fluoro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)-6-methylpyrimidine-4-carboxamide (Example-208, single enantiomer)
The title compound is prepared from 2-amino-N-(1-(5-fluoro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)-6-methylpyrimidine-4-carboxamide (20 mg, 0.05 mmol, Step-1, single enantiomer) and cyclobutanecarbonyl chloride (13 mg, 0.1 mmol) according to the procedure similar to that described in Step-2 of Example 8.

reactant | 2-amino-N-(1-(5-fluoro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)-6-methylpyrimidine-4-carboxamide | 0.05 mmol, 20 mg | NC1=NC(=CC(=N1)C(=O)NC(C)C=1C=NC(=C(C1)F)OCC(F)(F)F)C | C15H15F4N5O2
reactant | cyclobutanecarbonyl chloride | 0.1 mmol, 13 mg | C1(CCC1)C(=O)Cl | C5H7ClO
product | 2-(cyclobutanecarboxamido)-N-(1-(5-fluoro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)-6-methylpyrimidine-4-carboxamide | C1(CCC1)C(=O)NC1=NC(=CC(=N1)C(=O)NC(C)C=1C=NC(=C(C1)F)OCC(F)(F)F)C | C20H21F4N5O3
